### PR TITLE
fix: use `withReducibleAndIntances` to match ground patterns

### PR DESCRIPTION
**Pull request by leodemoura**
This PR fixes the transparency mode for ground patterns. This is important for implicit instances. Here is a mwe for an issue detected while testing `grind` in Mathlib.
```lean
example (a : Nat) : max a a = a := by
  grind

instance : Max Nat where
  max := Nat.max

example (a : Nat) : max a a = a := by
  grind -- Should work
```

### CODE REVIEW

**Comment by leodemoura** [comment]
cc @kim-em

File: src/Lean/Meta/Tactic/Grind/EMatch.lean [hunk 1]
```diff
@@ -104,7 +104,23 @@ private def matchArg? (c : Choice) (pArg : Expr) (eArg : Expr) : OptionT GoalM C
   else if pArg.isBVar then
     assign? c pArg.bvarIdx! eArg
   else if let some pArg := groundPattern? pArg then
-    guard (← isEqv pArg eArg <||> withReducible (isDefEq pArg eArg))
+    /-
+    We need to use `withReducibleAndIntances` because ground patterns are often instances.
```
Comment (Rob23oba) [inline src/Lean/Meta/Tactic/Grind/EMatch.lean:108]:
```suggestion
    We need to use `withReducibleAndInstances` because ground patterns are often instances.
```
Also in the title
